US05036075
2-(3- Chloro-2-methylpropyl)naphthol1,8-cd]isothiazole 1,1-dioxide may be prepared in the following manner: the experiment is carried out as in Example 56 for the preparation of 2-(3-bromo-2-hydroxypropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide, starting with naphtho[1,8-cd]isothiazole 1,1-dioxide (10.3 g) in dimethylformamide (125 cc), sodium hydride (2.4 g) in a 50% dispersion in vaseline oil, and 1-bromo-3-chloro-2-methylpropane (5.9 cc). After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with a mixture of dichloromethane and cyclohexane (80-20 vol) as eluant, 2-(3-chloro-2-methylpropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (10.4 g) is obtained, in the form of a green oil, which is used in the crude state in the subsequent syntheses.

reactant | isothiazole 1,1-dioxide | S1(N=CC=C1)(=O)=O | C3H3NO2S
reactant | 2-(3-bromo-2-hydroxypropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | BrCC(CN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O)O | C13H12BrNO3S
reactant | naphtho[1,8-cd]isothiazole 1,1-dioxide | 10.3 g | S1(NC2=C3C1=CC=CC3=CC=C2)(=O)=O | C10H7NO2S
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 1-bromo-3-chloro-2-methylpropane | 5.9 cc | BrCC(CCl)C | C4H8BrCl
solvent | dimethylformamide | 125 cc | CN(C=O)C | C3H7NO
product | 2-(3-chloro-2-methylpropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 10.4 g | ClCC(CN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O)C | C14H14ClNO2S
